US09108926B2
1-Fluoro-3-[(methylsulfanyl)methyl]-5-nitrobenzene
Sodium methanethiolate (1.22 g; 17.4 mmol) was added in three portions to a stirred solution of 1-(chloromethyl)-3-fluoro-5-nitrobenzene (3.00 g; 15.8 mmol, HE Chemical) in ethanol (33 mL) at 0° C. The ice bath was removed and the batch was stirred at room temperature for 18 hours. Further sodium methanethiolate (0.33 g; 4.7 mmol) was added and the batch was stirred for 5 additional hours at room temperature. The batch was diluted with brine and extracted with ethyl acetate (2×). The combined organic phases were washed with water, dried (sodium sulfate), filtered and concentrated to give the desired product (3.4 g) that was used without further purification.

reactant | Sodium methanethiolate | 17.4 mmol, 1.22 g | C[S-].[Na+]
reactant | 1-(chloromethyl)-3-fluoro-5-nitrobenzene | 15.8 mmol, 3.00 g | ClCC1=CC(=CC(=C1)[N+](=O)[O-])F | C7H5ClFNO2
reactant | sodium methanethiolate | 4.7 mmol, 0.33 g | C[S-].[Na+]
solvent | ethanol | 33 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 1-Fluoro-3-[(methylsulfanyl)methyl]-5-nitrobenzene | 3.4 g | FC1=CC(=CC(=C1)[N+](=O)[O-])CSC | C8H8FNO2S
